2179-02-21 07:42:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - three way foley placed for continuous bladder irrigation.  Some clots
   came out, now running pink tinged.
   Allergies:
   Last dose of Antibiotics:
   Infusions:
   Nitroglycerin - 0.25 mcg/Kg/min
   Heparin Sodium - 700 units/hour
   Other ICU medications:
   Morphine Sulfate - [**2179-2-21**] 02:45 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2179-2-21**] 07:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**81**] AM
   Tmax: 37.9
C (100.3
   Tcurrent: 37.5
C (99.5
   HR: 106 (95 - 119) bpm
   BP: 122/65(77) {91/63(70) - 167/114(128)} mmHg
   RR: 31 (15 - 31) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                    181 mL
                                                                     75 mL
   PO:
                                                                     90 mL
             TF:
   IVF:
                                                                     91 mL
                                                                     75 mL
   Blood products:
   Total out:
                                                                    620 mL
                                                                    200 mL
   Urine:
                                                                    120 mL
                                                                    200 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -439 mL
                                                                   -125 mL
   Respiratory support
   O2 Delivery Device: Non-rebreather
   SpO2: 94%
   ABG: ////
   Physical Examination
   General Appearance: Thin, Anxious
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Skin:  Not assessed
   Neurologic: Unable to cooperate with exam, although nursing reports
   possible left hemineglect.  Responds to: Verbal stimuli, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   243 K/uL
   12.2 g/dL
   37.3 %
   15.4 K/uL
        [image002.jpg]
                             [**2179-2-20**]  09:13 PM
                             [**2179-2-21**]  06:38 AM
   WBC
   15.4
   Hct
   37.3
   Plt
   243
   TropT
   8.29
   Other labs: PT / PTT / INR:/141.8/, CK / CKMB / Troponin-T:305/63/8.29,
   ALT / AST:51/178, Alk Phos / T Bili:98/
   Assessment and Plan
   72 year old man with HTN, HL, DM, CKD, non-verbal from schitzophrenia
   and mental retardation presenting with NSTEMI and hyperglycemia.
   # NSTEMI:  EKG and cardiac enzymes consitent with NSTEMI.  He is not
   consentable for cardiac catheterization, but presumably full code.  We
   will medically manage for now.  He does not appear to have signs of
   cardiogenic shock, but will be gentle with beta-blockade for concern of
   worsening heart failure.
   - continue ASA, plavix, statin, ACE, heparin gtt x 48 hours
   - low-dose beta-blocker for HR goal < 90
   - make all attempts to reach guardian today
   - social work consult
   - ethics consultation.
   #Hemineglect: Check CT head today.
   #Distended bowel on CXR: continue to follow clinically.
   #Hematuria
 continue continuous bladder irrigation.
   # HYPOXEMIA: Likely secondary to fluid overload from MI, but patient
   does not appear to be in cardiogenic shock.
   - diuresis with lasix as needed to treat hypoxia, responded well to 10
   mg IV.
   - repeat cxr if not improving
   # HYPERTENSION:  Unclear if well controlled on home regimen, but
   current hypertension is contributing to demand.
   - Nitroglycerin gtt
   - add valsartan
   - beta blocker
   # HYPERGLYCEMIA: Likely precipitated by NSTEMI on top of diabetes.
   - restart home regimen and start insulin gtt if not controlled
   - check A1c to evaluate control at home
   - hold sulfonurea
   #Leucocytosis: also likely MI related, will trend WBC daily.
   # SCHITZOPHRENIA: Unable to determine home zyprexa dose after
   contacting psychiatrist, PCP, [**Name10 (NameIs) **] residence.  Will continue to try to
   track down info.
   - zyprexa 5mg daily for now
   - contact psychiatrist in AM
   # CHRONIC RENAL INSUFFICIENCY: at baseline Cr 1.8-2.0
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2179-2-20**] 05:45 PM
   Prophylaxis:
   DVT: heparin IV
   Stress ulcer: n/a
   VAP:  n/a
   Comments:
   Communication:  Comments:
   Code status: presumed full
   Disposition: CCU

2179-02-22 06:54:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - three way foley placed for continuous bladder irrigation.  Some clots
   came out, was pink tinged, then completely clear.
   - CT scan, got versed with it; somnolent afterwards; also got zyprexa
   yesterday am
   - Neuro feels large posterior infarct may be in last day or so; OK to
   restart heparin gtt if we really feel necessary
   - Delirium, waxing and [**Doctor Last Name 533**] mental status
   - UA sent --> positive -- starting ceftriaxone
   - had a few beats of NSVT, frequent ectopy
   - 17:40 wanted to have restraints taken off, became agitated ; given
   zyprexa-zydis 5mg x2; drawing lytes/cr b/c of decreased urine output
   - does not appear to have Left side neglect
   - holding heparin gtt ; started subq heparin
   - EKG showed worsening TWIs similar to EKG when he first presented, but
   cardiac enzymes showed CK [**Last Name (LF) 13334**], [**First Name3 (LF) **] did not restart heparin gtt
   ; redraw cardiac enzymes at midnight (added on to AM labs b/c difficult
   stick)
   - considered PE b/c of tachycardia and hypoxemia but EKG and Echo (from
   [**2-19**]) showed no signs of RH strain
   - gave 10mg IV lasix for hypoxia (to which he had responded very well
   in ED) ; put out about 400cc of urine
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2179-2-21**] 09:15 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2179-2-21**] 10:00 PM
   Furosemide (Lasix) - [**2179-2-21**] 10:00 PM
   Lorazepam (Ativan) - [**2179-2-22**] 06:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2179-2-22**] 06:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**81**] AM
   Tmax: 38.2
C (100.7
   Tcurrent: 37
C (98.6
   HR: 115 (91 - 120) bpm
   BP: 137/84(94) {109/60(72) - 151/117(121)} mmHg
   RR: 30 (14 - 33) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  1,100 mL
                                                                     97 mL
   PO:
                                                                    350 mL
                                                                     30 mL
   TF:
   IVF:
                                                                    750 mL
                                                                     67 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                    420 mL
   Urine:
   420 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,100 mL
                                                                   -323 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 94%
   ABG: ///27/
   Physical Examination
   Gen: sleepy, arousable, asking to take face tent off when it is placed
   over his mouth
   HEENT:  brownish saliva in mouth
   Chest: anterior and laterally clear, difficult to examine posteriorly
   Abd:  soft, thin, nondistended
   Ext:  no periph edema, strong DP pulses
   Neuro:  appears to have visual defect on L side but does not neglect
   left side; does not participate in rest of neuro exam
   Labs / Radiology
   Head CT [**2179-2-21**]
   Large hypodensity in the right occipital lobe, of
   undetermined age, could be of subacute nature. Periventricular white
   matter
   densities, likely due to chronic small vessel ischemic changes. No
   acute
   hemorrhage.
   Please note that CT is not sensitive for acute ischemia, and if there
   is
   clinical concern, MRI can be done.
   181 K/uL
   10.5 g/dL
   158 mg/dL
   1.9 mg/dL
   27 mEq/L
   3.9 mEq/L
   24 mg/dL
   109 mEq/L
   144 mEq/L
   31.8 %
   12.4 K/uL
        [image002.jpg]
                             [**2179-2-20**]  09:13 PM
                             [**2179-2-21**]  06:38 AM
                             [**2179-2-21**]  05:57 PM
                             [**2179-2-22**]  02:45 AM
   WBC
   15.4
   12.4
   Hct
   37.3
   31.8
   Plt
   243
   181
   Cr
   1.8
   1.7
   1.9
   TropT
   8.29
   4.94
   2.54
   2.61
   Glucose
   156
   158
   Other labs: PT / PTT / INR:12.9/29.4/1.1, CK / CKMB /
   Troponin-T:357/10/2.61, ALT / AST:51/178, Alk Phos / T Bili:98/,
   Ca++:8.9 mg/dL, Mg++:2.1 mg/dL, PO4:2.3 mg/dL
   Microbiology: urine Eosinophils Negative
   Assessment and Plan
   72 year old man with HTN, HL, DM, CKD, non-verbal from schitzophrenia
   and mental retardation presenting with NSTEMI and hyperglycemia.
   # Subacute Stroke:
   Large hypodense area on CT in Right occipital lobe, likely
   cardioembolic stroke.  Neurology consulted and prefers not to use
   heparin gtt though states that it is OK if absolutely necessary for
   ACS.   Patient appears to have some visual defects in Left eye; does
   not appear to have left-sided hemineglect.  Neuro exam limited due to
   patient
s schizophrenia and difficulty participating in exam.
   -          Repeat Head CT if neuro exam changes
   -          Restarting heparin gtt for now
   # NSTEMI:
   EKG and cardiac enzymes consitent with NSTEMI on presentation.
   Difficult to assess patient in terms of pain, so checked EKG last night
   which showed larger T wave inversions, similar to on presentation;
   concern for restarting heparin gtt for coronary reperfusion, medical
   management of NSTEMI.  Cardiac enzymes trending down, so heparin gtt
   not restarted.  He is not consentable for cardiac catheterization, but
   presumably full code.   He does not appear to have signs of cardiogenic
   shock, but will be gentle with beta-blockade for concern of worsening
   heart failure.  Social work involved and found guardian
s phone number;
   message left for guardian by social worker and CCU team.
   - continue ASA, plavix, statin, ACE
   - low-dose beta-blocker for HR goal < 90
   - contact guardian
   - appreciate social work help
   - appreciate ethics recommendations
   # HYPOXEMIA:
   [**Month (only) 51**] be secondary to fluid overload from MI.  Less likely to have PE b/c
   no signs of RH strain on EKG or Echo, though still possible.  Attempted
   diuresis with lasix overnight, responded moderately well w urine
   output; difficult to assess whether oxygenation improved because he was
   on more O2 than required.  Oxygenation worsens with agitation.
   -          diurese a little further, with care that patient likely
   somewhat preload dependent in setting of significant
   akinesis/hypokinesis
   -          repeat cxr if not improving
   -          on heparin gtt now which will help for possible PE as well
   # HYPERTENSION:
   Weaned of nitroglycerin gtt yesterday and BPs stable on valsartan and
   beta blocker.
   - continue valsartan ; will discuss with Neuro with regards to BP
   autoregulation
   - beta blocker
   # UTI:
   Not using ciprofloxacin b/c getting antipsychotics as well which could
   prolong QT.
   - started Ceftriaxone last night
   # HYPERGLYCEMIA: Likely precipitated by NSTEMI and UTI on top of
   diabetes.
   - F/U HbA1c.
   - insulin sliding scale
   #Distended bowel on CXR: continue to follow clinically.
   #Hematuria
 Discontinue continuous bladder irrigation.
   # SCHIZOPHRENIA:
   Unclear if home zyprexa dose is accurate.  Will continue to try to
   confirm information; PCP will be in office today.
   - zyprexa 5mg daily for now
   # CHRONIC RENAL INSUFFICIENCY: at baseline Cr 1.8, creatinine stable so
   far
   - cont to trend
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2179-2-20**] 05:45 PM
   Prophylaxis:
   DVT:  heparin gtt
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:  GUARDIAN [**First Name8 (NamePattern2) 3369**] [**Last Name (NamePattern1) 973**] ([**Telephone/Fax (1) 13339**] ;
   ([**Telephone/Fax (1) 13340**]
   Code status:   Full
   Disposition:   CCU
   ------ Protected Section ------
   # Anemia:
   Hematocrit drop since yesterday.  Not likely that such large Hct drop
   could be into stroked out area in occipital lobe.
   - Recheck Hct
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 10501**], MD
   on:[**2179-2-22**] 11:37 ------

2179-02-23 07:38:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: NSTEMI, CVA
   [**93**] Hour Events:
   - GUARDIAN = [**First Name8 (NamePattern2) 3369**] [**Last Name (NamePattern1) 3370**] ([**Telephone/Fax (1) 13365**] or ([**Telephone/Fax (1) 13366**] -- was
   [**Telephone/Fax (1) 167**] today and is aware of situation ; states that she will
   contact Dept of Mental Health, has been recently trying to place him
   into chronic rehab but having difficulty b/c of new Article V
   regulations; per Article V, she cannot change his code status at this
   time
   - hypotensive overnight SBP 70s, MAPs 50s, gave 500cc bolus
   - glucose to 60 overnight - gave [**1-9**] amp d50 - will need to readjust
   ISS/long acting
   History obtained from Medical records
   Allergies:
   History obtained from Medical recordsNo Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2179-2-22**] 07:56 PM
   Infusions:
   Heparin Sodium - 750 units/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2179-2-22**] 08:34 AM
   Furosemide (Lasix) - [**2179-2-22**] 08:44 PM
   Dextrose 50% - [**2179-2-23**] 02:38 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2179-2-23**] 07:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**81**] AM
   Tmax: 38.1
C (100.6
   Tcurrent: 36.7
C (98
   HR: 80 (73 - 117) bpm
   BP: 93/54(61) {72/42(47) - 132/81(164)} mmHg
   RR: 22 (14 - 36) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                    996 mL
                                                                    587 mL
   PO:
                                                                    750 mL
             TF:
   IVF:
                                                                    246 mL
                                                                    562 mL
   Blood products:
   Total out:
                                                                    800 mL
                                                                    150 mL
   Urine:
                                                                    800 mL
                                                                    150 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    196 mL
                                                                    437 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///24/
   Physical Examination
   General Appearance: Thin
   Cardiovascular: (S1: Normal), (S2: Normal), JVP at 5 cm
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: No(t)
   Clear : , Crackles : bilaterally at bases, L>R)
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Normal
   Labs / Radiology
   150 K/uL
   10.1 g/dL
   109 mg/dL
   2.0 mg/dL
   24 mEq/L
   3.7 mEq/L
   28 mg/dL
   111 mEq/L
   147 mEq/L
   29.9 %
   8.3 K/uL
        [image002.jpg]
                             [**2179-2-20**]  09:13 PM
                             [**2179-2-21**]  06:38 AM
                             [**2179-2-21**]  05:57 PM
                             [**2179-2-22**]  02:45 AM
                             [**2179-2-22**]  04:36 PM
                             [**2179-2-23**]  04:20 AM
   WBC
   15.4
   12.4
   8.3
   Hct
   37.3
   31.8
   32.1
   29.9
   Plt
   243
   181
   150
   Cr
   1.8
   1.7
   1.9
   2.0
   TropT
   8.29
   4.94
   2.54
   2.61
   Glucose
   156
   158
   109
   Other labs: PT / PTT / INR:13.8/86.9/1.2, CK / CKMB /
   Troponin-T:357/10/2.61, ALT / AST:51/178, Alk Phos / T Bili:98/,
   Ca++:8.9 mg/dL, Mg++:2.1 mg/dL, PO4:2.3 mg/dL
   Assessment and Plan
   72 year old man with HTN, HL, DM, CKD, non-verbal from schitzophrenia
   and mental retardation presenting with NSTEMI and hyperglycemia.
   # Subacute Stroke:
   Large hypodense area on CT in Right occipital lobe, likely
   cardioembolic stroke.  Neurology consulted and prefers not to use
   heparin gtt though states that it is OK if absolutely necessary for
   ACS.   Patient appears to have some visual defects in Left eye; does
   not appear to have left-sided hemineglect.  Neuro exam limited due to
   patient
s schizophrenia and difficulty participating in exam.  Likely
   what happened is that patient had an apical clot that embolized to the
   brain.
   -          Repeat Head CT if neuro exam changes
   -          heparin gtt for now
   # NSTEMI:
   EKG and cardiac enzymes consitent with NSTEMI on presentation.
   Difficult to assess patient in terms of pain, so checked EKG last night
   which showed larger T wave inversions, similar to on presentation;
   concern for restarting heparin gtt for coronary reperfusion, medical
   management of NSTEMI.  Cardiac enzymes trending down, so heparin gtt
   not restarted.  He is not consentable for cardiac catheterization, but
   presumably full code.   He does not appear to have signs of cardiogenic
   shock, but will be gentle with beta-blockade for concern of worsening
   heart failure.  Social work involved and found guardian
s phone number;
   message left for guardian by social worker and CCU team.  Guardian has
   been [**Name (NI) 167**], agrees with current management.
   - continue ASA, plavix, statin, ACE for medical management of NSTEMI
   - low-dose beta-blocker for HR goal < 90
   - warfarin for apical akinesis.
   # HYPOXEMIA:
   [**Month (only) 51**] be secondary to fluid overload from MI.  Less likely to have PE b/c
   no signs of RH strain on EKG or Echo, though still possible.  Attempted
   diuresis with lasix overnight, responded moderately well w urine
   output; difficult to assess whether oxygenation improved because he was
   on more O2 than required.  Oxygenation worsens with agitation.
   -          Continue with lasix 20mg PO daily.
   -          on heparin gtt now which will help for possible PE as well
   # HYPERTENSION:
   Weaned of nitroglycerin gtt yesterday and BPs stable on valsartan and
   beta blocker.
   - continue valsartan ; will discuss with Neuro with regards to BP
   autoregulation
   - beta blocker
   # UTI:
   Not using ciprofloxacin b/c getting antipsychotics as well which could
   prolong QT.
   - switched to cefpodoxime, day 3
   # HYPERGLYCEMIA: Likely precipitated by NSTEMI and UTI on top of
   diabetes.
   - hgba1c 8.1
   - insulin sliding scale
   #Distended bowel on CXR: continue to follow clinically.
   #Hematuria
 Resolved
   # SCHIZOPHRENIA:
   Unclear if home zyprexa dose is accurate.  Will continue to try to
   confirm information; PCP will be in office today.
   - zyprexa 5mg daily for now
   # CHRONIC RENAL INSUFFICIENCY:  baseline Cr 1.8, slightly elevated at
   2.0
   - cont to trend
   ICU Care
   Nutrition:
   Glycemic Control:  ISS
   Lines:
   20 Gauge - [**2179-2-23**] 04:19 AM
   Prophylaxis:
   DVT: heparin gtt
   Stress ulcer: n/a
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: floor for now, likely return to home with services